US08471005B2
Difluoro-(4-nitro-phenyl)-acetic acid (106 mg, 0.488 mmol) was suspended in Thionyl chloride (1.00 mL, 13.7 mmol) and heated at 79° C. in a vial for 5 h. Conc. and azeotroping with toluene afforded a residue, which was dried in vacuo. 1-Methyl-piperazine (0.100 mL, 0.902 mmol), N,N-Diisopropylethylamine (0.250 mL, 1.44 mmol) and 1,2-Dichloroethane (1.00 mL, 12.7 mmol) were added to the residue. The mixture was diluted with EtOAc (10 mL) and water:brine:NaHCO3 (1:3:2, 6 mL), the layers separated and the aq. extr. with DCM (2×3 mL). The comb. org. were dried, filtered and conc. in vacuo to give an oil which very slowly crystallizes. The crude amide (124 mg) was shaken under an atmosphere of Hydrogen (15 psi) over 10% Palladium on Carbon (50% Wet) (24 mg, 0.011 mmol) in Methanol (10.0 mL) overnight. Filtration and conc. afforded 2-(4-Amino-phenyl)-2,2-difluoro-1-(4-methyl-piperazin-1-yl)-ethanone (0.113 g; Yield=86.0%) as a film.

reactant | Difluoro-(4-nitro-phenyl)-acetic acid | 0.488 mmol, 106 mg | FC(C(=O)O)(C1=CC=C(C=C1)[N+](=O)[O-])F | C8H5F2NO4
reactant | Thionyl chloride | 13.7 mmol, 1.00 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 1-Methyl-piperazine | 0.902 mmol, 0.100 mL | CN1CCNCC1 | C5H12N2
reactant | N,N-Diisopropylethylamine | 1.44 mmol, 0.250 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1,2-Dichloroethane | 12.7 mmol, 1.00 mL | ClCCCl | C2H4Cl2
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | water brine NaHCO3 | 6 mL | O.[Cl-].[Na+].O.C(=O)(O)[O-].[Na+]
catalyst | Palladium on Carbon | 0.011 mmol, 24 mg | [Pd] | Pd
solvent | Methanol | 10.0 mL | CO | CH4O
product | 2-(4-Amino-phenyl)-2,2-difluoro-1-(4-methyl-piperazin-1-yl)-ethanone | 0.113 g, Yield=86.0% | NC1=CC=C(C=C1)C(C(=O)N1CCN(CC1)C)(F)F | C13H17F2N3O
